US08217069B2
To a solution of 5-chloro-2-(2,3-difluoro-6-methoxybenzyloxy)-4-nitrophenol (0.35 g), 2-fluoroethanol (71 mg) and triphenylphosphine (0.31 g) in tetrahydrofuran (1.5 mL) was added diisopropyl azodicarboxylate (40% toluene solution, 0.68 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=9/1−1/1) to give 2-chloro-4-(2-fluoroethoxy)-5-(2,3-difluoro-6-methoxybenzyloxy)-1-nitrobenzene (0.24 g). This material was dissolved in tetrahydrofuran (5 mL). To the solution were added methanol (3 mL) and nickel(II) bromide (7 mg). To the mixture was added sodium borohydride (70 mg) under ice-cooling, and the mixture was stirred at the same temperature for 30 minutes, and then stirred at room temperature for 30 minutes. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=3/1−1/1) to give the title compound (0.2 g).

reactant | 5-chloro-2-(2,3-difluoro-6-methoxybenzyloxy)-4-nitrophenol | 0.35 g | ClC=1C(=CC(=C(C1)O)OCC1=C(C(=CC=C1OC)F)F)[N+](=O)[O-] | C14H10ClF2NO5
reactant | 2-fluoroethanol | 71 mg | FCCO | C2H5FO
reactant | triphenylphosphine | 0.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.68 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | 2-chloro-4-(2-fluoroethoxy)-5-(2,3-difluoro-6-methoxybenzyloxy)-1-nitrobenzene | 0.24 g | ClC1=C(C=C(C(=C1)OCCF)OCC1=C(C(=CC=C1OC)F)F)[N+](=O)[O-] | C16H13ClF3NO5
